US08071624B2
Step 3. (3S)-N-1-Adamantyl-1-phenylpiperidine-3-carboxamide
4-Methylmorpholine (43 μL, 0.00039 mol) was added to a mixture of (3S)-1-phenylpiperidine-3-carboxylic acid (20 mg, 0.0001 mol), tricyclo[3.3.1.13,7]decane-1-amine (18 mg, 0.00012 mol), (benzotriazol-1-yloxy)tripyrrolidinophosphonium hexafluorophosphate (53.2 mg, 0.000102 mol) or benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (45.2 mg, 0.000102 mol) in N,N-dimethylformamide (0.5 mL, 0.006 mol). The reaction mixture was stirred at rt for 2 hrs and the crude reaction mixture was purified by prep-LCMS to afford the desired product. LCMS: m/z 339.3 (M+H)+.

reactant | 4-Methylmorpholine | 0.00039 mol, 43 μL | CN1CCOCC1 | C5H11NO
reactant | (3S)-1-phenylpiperidine-3-carboxylic acid | 0.0001 mol, 20 mg | C1(=CC=CC=C1)N1C[C@H](CCC1)C(=O)O | C12H15NO2
reactant | tricyclo[3.3.1.13,7]decane-1-amine | 0.00012 mol, 18 mg | C12(CC3CC(CC(C1)C3)C2)N | C10H17N
reactant | (benzotriazol-1-yloxy)tripyrrolidinophosphonium hexafluorophosphate | 0.000102 mol, 53.2 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N2CCCC2)(N2CCCC2)N2CCCC2
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 0.000102 mol, 45.2 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | N,N-dimethylformamide | 0.006 mol, 0.5 mL | CN(C=O)C | C3H7NO
product | (3S)-N-1-Adamantyl-1-phenylpiperidine-3-carboxamide | C12(CC3CC(CC(C1)C3)C2)NC(=O)[C@@H]2CN(CCC2)C2=CC=CC=C2 | C22H30N2O
